US06307070B1
Chloroacetonitrile (4 ml, 63.2 mmol) was added dropwise to a stirred solution containing phloroglucinol dihydrate (10 g, 61.7 mmol) and zinc chloride (8.5 g, 62.4 mmol) in anhydrous ether (100 ml) at room temperature. The resulting solution was then saturated with hydrogen chloride gas. After stirring at room temperature for 24 hours, the orange precipitates were filtered and washed with anhydrous ether (50 ml). The precipitates were then dissolved in water (100 ml) and heated at 100° C. for 1 hr. The solution was allowed to cool to ambient temperature, and aqueous sodium hydroxide (20% w/v) (10 ml) was then added. After stirring at room temperature for an additional 30 minutes, the reaction mixture was acidified by adding dilute hydrochloric acid (1M, 50 ml) and was extracted with ethyl acetate (2×250 ml). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford a light orange solid which was then recrystallized from ethyl acetate to give 4,6-dihydroxy-3-benzofuranone as a light orange powder (9.5 g, 93%).

reactant | Chloroacetonitrile | 63.2 mmol, 4 ml | ClCC#N | C2H2ClN
reactant | phloroglucinol dihydrate | 61.7 mmol, 10 g | O.O.C1(O)=CC(O)=CC(O)=C1
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | zinc chloride | 62.4 mmol, 8.5 g | [Cl-].[Zn+2].[Cl-]
product | 4,6-dihydroxy-3-benzofuranone | 9.5 g, 93% | OC1=CC(=CC2=C1C(CO2)=O)O | C8H6O4
